US07041687B2
3-iodo-1-(2-methoxyethoxymethyl)-5-nitro-3-phenyl-1H-indazole:
To a mixture of 3-iodo-1-(2-methoxyethoxymethyl)-5-nitro-1H-indazole (0.50 g, 1.32 mmol), phenyl boronic acid (0.22 g, 1.80 mmol), potassium phosphate (1.26 g, 5.94 mmol) and 1,1′-Bis(diphenylphosphino)ferrocenedichloropalladium(II), complex with dichloromethane (0.15 g, 0.18 mmol) was added dry dimethoxyethane (8.0 ml) and then heated at 85° C. for 18 hours. Ammonium chloride solution (30 ml, saturated aqueous) was added and extracted into ethyl acetate (3×30 ml). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (3% MeOH in DCM) to afford the title compound as a yellow solid (0.35 g, 81%). 1H NMR (400 MHz, CDCl3) δ 3.37 (3H, s), 3.51–3.53 (2H, m), 3.73–3.75 (2H, m), 5.93 (1H, s), 7.50–7.54 (1H, m), 7.57–7.61 (2H, m), 7.73 (1H, d), 7.98 (2H, dd), 8.37 (1H, dd), 9.00 (1H, s).

reactant | 3-iodo-1-(2-methoxyethoxymethyl)-5-nitro-1H-indazole | 1.32 mmol, 0.50 g | IC1=NN(C2=CC=C(C=C12)[N+](=O)[O-])COCCOC | C11H12IN3O4
reactant | phenyl boronic acid | 1.80 mmol, 0.22 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 5.94 mmol, 1.26 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dichloromethane | 0.18 mmol, 0.15 g | ClCCl | CH2Cl2
reactant | Ammonium chloride | 30 ml | [Cl-].[NH4+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenedichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dimethoxyethane | 8.0 ml | C(OC)COC | C4H10O2
product | 3-iodo-1-(2-methoxyethoxymethyl)-5-nitro-3-phenyl-1H-indazole | 0.35 g, 81% | IC1(NN(C2=CC=C(C=C12)[N+](=O)[O-])COCCOC)C1=CC=CC=C1 | C17H18IN3O4
